US07145012B2
Preparation of Intermediate 1-(2-Chloro-phenyl)-5-(4-chloro-phenyl)-4-(isopropylamino-methyl)-1H-pyrazole-3-carboxylic acid ethyl ester (I-4c)
A mixture of 4-bromomethyl-1-(2-chloro-phenyl)-5-(4-chloro-phenyl)-1H-pyrazole-3-carboxylic acid ethyl ester I-4b (200 mg, 0.44 mmol), isopropyl amine (26 mg, 0.44 mmol), K2CO3 (182 mg, 1.32 mmol) in CH3CN (5 ml) was stirred for 17 hours at room temperature. The reaction mixture was filtered to remove insoluble material and concentrated under vacuum. The residue was diluted with EtOAc and the organic solution was washed with H2O and sat'd aq. NaCl, dried, and concentrated in vacuo. The crude residue was purified on SiO2-gel chromatography using a solvent gradient of 20% EtOAc/hexanes to 75% EtOAc/hexanes to give the product (I-4c) as an amorphous solid (40 mg, 21%): +APCI MS (M+1) 432.2.

reactant | 4-bromomethyl-1-(2-chloro-phenyl)-5-(4-chloro-phenyl)-1H-pyrazole-3-carboxylic acid ethyl ester | 0.44 mmol, 200 mg | C(C)OC(=O)C1=NN(C(=C1CBr)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C19H15BrCl2N2O2
reactant | isopropyl amine | 0.44 mmol, 26 mg | C(C)(C)N | C3H9N
reactant | K2CO3 | 1.32 mmol, 182 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 5 ml | CC#N | C2H3N
product | 1-(2-Chloro-phenyl)-5-(4-chloro-phenyl)-4-(isopropylamino-methyl)-1H-pyrazole-3-carboxylic acid ethyl ester | 40 mg, 21% | C(C)OC(=O)C1=NN(C(=C1CNC(C)C)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C22H23Cl2N3O2
